US06730707B2
5-Nitrotryptamine (6 mmol) and salicylaldehyde (7 mmol) are dissolved in ethanol (35 mL) buffered with potassium hydroxide (0.15 g) and treated with sodium borohydride (18 mmol) 8 h at 24° C. The ethanol is removed in vacuo and the residue partitioned between ether and water, the ether phase dried, evaporated and the oil chromatographed on silica gel with ethyl acetate-hexane to afford 2-{[2-(5-nitro-1H-indol-3-yl)-ethylamino]-methyl}-phenol. After hydrogenation over Pd/C as above, the residue is dissolved in pyridine (12 mL) and treated with methyl chloroformate (9 mmol). A brownish precipitate forms immediately upon addition of the chloroformate, which dissolves during 20 min. After a short time silica gel TLC (5% methanol-chloroform eluent) is performed to judge completion of the reaction. The mixture is evaporated to dryness and maintained at a vacuum of <0.1 mmHg at least 2 h. It is then dissolved in a small amount of methanol, and purified by reverse-phase HPLC with a gradient of water to methanol.

reactant | 5-Nitrotryptamine | 6 mmol | [N+](=O)([O-])C1=CC=C2NC=C(CCN)C2=C1 | C10H11N3O2
reactant | salicylaldehyde | 7 mmol | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | potassium hydroxide | 0.15 g | [OH-].[K+]
reactant | sodium borohydride | 18 mmol | [BH4-].[Na+]
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | 2-{[2-(5-nitro-1H-indol-3-yl)-ethylamino]-methyl}-phenol | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)CCNCC1=C(C=CC=C1)O | C17H17N3O3
